US05428038
(±)-6-methoxy-7-(oxiranylmethoxy)-2H-1-benzopyran-2-one.
25.0 g (130 mmol) of scopoletine, 15.3 ml (196 mmol) epichlorohydrin, 36.0 g (260 mmol) potassium carbonate and 2.5 g of potassium iodide are agitated in 500 ml DMF under nitrogen for 3 h at 80° C. After vacuum evaporation and repeated extraction with hot ethanol re-evaporation was performed. 21.2 g (66%); fusion point 143°-145° C. (from ethanol).

reactant | scopoletine | 130 mmol, 25.0 g | COC=1C=C2C(=CC1O)OC(=O)C=C2 | C10H8O4
reactant | epichlorohydrin | 196 mmol, 15.3 ml | C(Cl)C1CO1 | C3H5ClO
reactant | potassium carbonate | 260 mmol, 36.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 2.5 g | [I-].[K+]
solvent | DMF | 500 ml | CN(C)C=O | C3H7NO
product | (±)-6-methoxy-7-(oxiranylmethoxy)-2H-1-benzopyran-2-one | COC=1C(=CC2=C(C=CC(O2)=O)C1)OCC1OC1 | C13H12O5
